US05604229
2-Amino-2-(11-carboxyundecyl)-1,3-propanediol Hydrochloride
2N Hydrochloric acid (0.5 ml) was added to 10 mg of 2-amino-2-(11-methoxycarbonylundecyl)-1,3-propanediol hydrochloride and the mixture was heated at 90° C. for 1 hour. The solvent was distilled away under reduced pressure to give 10 mg of the subject compound.

reactant | Hydrochloric acid | 2N, 0.5 ml | Cl | ClH
reactant | 2-amino-2-(11-methoxycarbonylundecyl)-1,3-propanediol hydrochloride | 10 mg | Cl.NC(CO)(CO)CCCCCCCCCCCC(=O)OC
product | 2-Amino-2-(11-carboxyundecyl)-1,3-propanediol Hydrochloride | 10 mg | Cl.NC(CO)(CO)CCCCCCCCCCCC(=O)O | InChI=1S/C15H31NO4.ClH/c16-15(12-17,13-18)11-9-7-5-3-1-2-4-6-8-10-14(19)20;/h17-18H,1-13,16H2,(H,19,20);1H
